US07323472B2
To a solution of 4-(2-fluoro-phenyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one (120 mg, 0.42 mmol) in 20 mL of anhyd THF was added NaH (50 mg, 1.2 mmol, 60% dispersion in mineral oil, 3 eq) followed by iodomethane (74 μL, 1.2 mmol, 3 eq). The reaction mixture was stirred 1 h at 23°, quenched with saturated aq NH4Cl. (20 mL), Et2O (100 mL) was added and the layers were separated. The organic layer was washed with satd aq NaCl, dried (MgSO4), filtered and evaporated. The yellow residue was then purified by Flash chromatography to afford 100 mg (92% yield) of 4-(2-Fluoro-phenyl)-8-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one. 1H-NMR δ 2.68 (s, 3H), 3.81 (s, 3H), 6.61 (d, 1H, J=9.8 Hz), 7.22 (m, 3H), 7.50 (m, 3H). LC MS (m/e)=302 (MH+). Rt=2.17 min.

reactant | 4-(2-fluoro-phenyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.42 mmol, 120 mg | FC1=C(C=CC=C1)C=1C2=C(N=C(N1)SC)NC(C=C2)=O | C14H10FN3OS
reactant | NaH | 1.2 mmol, 50 mg, 3 eq | [H-].[Na+]
reactant | iodomethane | 1.2 mmol, 74 μL, 3 eq | IC | CH3I
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(2-Fluoro-phenyl)-8-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 100 mg, 92% yield | FC1=C(C=CC=C1)C=1C2=C(N=C(N1)SC)N(C(C=C2)=O)C | C15H12FN3OS
